US08557876B2
A 100 mL reaction flask is charged with 4-(2,5,6,6-tetramethyl-cyclohex-1-enyl)-butan-2-one (10 g, 0.05 mol, commercially available at IFF), formamidine acetate (26 g, 0.3 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 4-[2-(2,5,6,6-tetramethyl-cyclohex-1-enyl)-ethyl]-pyrimidine (˜10 g) is obtained.

reactant | 4-(2,5,6,6-tetramethyl-cyclohex-1-enyl)-butan-2-one | CC1=C(C(C(CC1)C)(C)C)CCC(C)=O | C14H24O
reactant | formamidine acetate | 0.3 mol, 26 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 4-[2-(2,5,6,6-tetramethyl-cyclohex-1-enyl)-ethyl]-pyrimidine | ˜10 g | CC1=C(C(C(CC1)C)(C)C)CCC1=NC=NC=C1 | C16H24N2
